US06376672B1
To a mixture of 0.87 g (5.02 mmol) of (3,5-difluoro-2-methoxy-phenyl)-methanol, 0.82 ml (7.03 mmol) of 2,6-lutidine, and 0.425 g (10 mmol) of lithium chloride in 5 ml N,N-dimethylformamide were added dropwise at 0° C. 0.5 ml (6.5 mmol) of mesylchloride. The suspension was stirred during 18 hours at room temperature and then treated with 1 ml of saturated aqueous sodium hydrogencarbonate solution. The volatile components were distilled at 35° C./1 Torr and the residue was partitioned between ethyl acetate and water. The organic phase was separated and evaporated under reduced pressure and the crude product was purified by chromatography on silica gel with dichloromethane as the eluent. There were obtained 0.49 g (51% of theory) of 1-chloromethyl-3,5-difluoro-2-methoxy-benzene as a colorless liquid; MS: 192 (M)+.

reactant | (3,5-difluoro-2-methoxy-phenyl)-methanol | 5.02 mmol, 0.87 g | FC=1C(=C(C=C(C1)F)CO)OC | C8H8F2O2
reactant | 2,6-lutidine | 7.03 mmol, 0.82 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | lithium chloride | 10 mmol, 0.425 g | [Cl-].[Li+]
reactant | mesylchloride | 6.5 mmol, 0.5 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | 1 ml | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 1-chloromethyl-3,5-difluoro-2-methoxy-benzene | 0.49 g, 51% | ClCC1=C(C(=CC(=C1)F)F)OC | C8H7ClF2O
